US07399778B2
C. 5-(1-Azido-2-ethylbutyl)-1-(4-methoxyphenyl)-1H-pyrazole
To 2-ethyl-1-[1-(4-methoxyphenyl)-1H-pyrazol-5-yl]butan-1-ol (1.0 g, 3.7 mmol) in THF (35 mL) at 0° C. was added triphenylphosphine (1.5 g, 5.6 mmol), diethyl azodicarboxylate (0.88 mL, 5.6 mmol) and diphenylphosphorylazide (1.2 mL, 5.6 mmol). The reaction mixture was slowly warmed to room temperature and stirred for 18 h. The reaction mixture was diluted with EtOAc and washed twice with 1N HCl. The organic layer was dried (MgSO4), filtered, concentrated in vacuo and the resulting oil was purified by column chromatograhy (SiO2, EtOAc/ hexane, 1:9) to give a clear oil in 80% yield. 1H NMR (400 MHz, DMSO-d6) δ 7.66 (d, 1H, J=1.9 Hz), 7.32 (m, 2H), 7.07 (m, 2H), 6.55 (m, 1H), 4.42 (d, 1H, J=8.4 Hz), 3.80 (s, 3H), 1.60 (m, 1H), 1.41 (m, 1H), 1.25 (m, 1H), 1.14 (m, 2H), 0.69 (t, 3H, J=7.4 Hz), 0.60 (t, 3H, J=7.4 Hz).

reactant | 2-ethyl-1-[1-(4-methoxyphenyl)-1H-pyrazol-5-yl]butan-1-ol | 3.7 mmol, 1.0 g | C(C)C(C(O)C1=CC=NN1C1=CC=C(C=C1)OC)CC | C16H22N2O2
reactant | triphenylphosphine | 5.6 mmol, 1.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.6 mmol, 0.88 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphorylazide | 5.6 mmol, 1.2 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(1-Azido-2-ethylbutyl)-1-(4-methoxyphenyl)-1H-pyrazole | 80% yield | N(=[N+]=[N-])C(C(CC)CC)C1=CC=NN1C1=CC=C(C=C1)OC | C16H21N5O
